US06261738B1
13.1: 2,2,2-Trifluoro-1-(2,4,6-trimethylphenyl)-ethanone
50.0 g (0.416 mol) of mesitylene and 50.8 g (0.416 mol) of 4-dimethylaminopyridine are mixed in 600 ml of CH2Cl2 and cooled in an ice bath. To the solution are added dropwise 87.4 g (0.416 mol) of trifluoroacetic anhydride, followed by 128 g (0.957 mol) of AlCl3 by portions. The reaction mixture is stirred at room temperature overnight, poured into ice water, and extracted with CH2Cl2. The organic phase is washed with water, dried over MgSO4, and concentrated. The residue is distilled at 100° C./1 mm Hg, yielding 44.6 g of the crude product as a colorless liquid. The crude product is used in the next step without further purification.

reactant | mesitylene | 0.416 mol, 50.0 g | C1(=CC(=CC(=C1)C)C)C | C9H12
reactant | trifluoroacetic anhydride | 0.416 mol, 87.4 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | AlCl3 | 0.957 mol, 128 g | [Al+3].[Cl-].[Cl-].[Cl-]
catalyst | 4-dimethylaminopyridine | 0.416 mol, 50.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 600 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(2,4,6-trimethylphenyl)-ethanone | 44.6 g | FC(C(=O)C1=C(C=C(C=C1C)C)C)(F)F | C11H11F3O
